US05654318
(4aS,7aS)-6-Benzyl-1-t -butoxycarbonyloctahydropyrrolo[3.4-b]pyridine
In 100 ml of acetonitrile was dissolved 3.49 g of the optically active (4aS,7aS)-6-benzyloctahydropyrrolo[3.4-b]pyridine obtained in Reference Example 11, and a solution of 4.27 g of Boc2O in 30 ml of acetonitrile was added thereto dropwise under ice-cooling, followed by stirring at room temperature for 14 hours. After completion of the reaction, the solvent was removed under reduced pressure, and a residue was subjected to column chromatography on Florisil® using a 4:1 (by volume) mixed solution of n-hexane and ethyl acetate as an eluent to yield 4.0 g of the titled compound as an oily substance from the eluate. The product was found to have optical purity of 99.6% ee by high performance liquid chromatography conducted under the following conditions.

reactant | Boc2O | 4.27 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4aS,7aS)-6-benzyloctahydropyrrolo[3.4-b]pyridine | C(C1=CC=CC=C1)N1C[C@H]2NCCC[C@H]2C1 | C14H20N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (4aS,7aS)-6-Benzyl-1-t -butoxycarbonyloctahydropyrrolo[3.4-b]pyridine | 4.0 g | C(C1=CC=CC=C1)N1C[C@H]2N(CCC[C@H]2C1)C(=O)OC(C)(C)C | C19H28N2O2
